US07834063B2
2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-N-(4-fluorophenyl)butanamide
Synthesized as described in Example 91C using 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanoic acid and 4-fluoroaniline:

reactant | 2-[[4-cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]butanoic acid | C(#N)C1=C(C=C(C=C1)N(C(C(=O)O)CC)CC(F)(F)F)C(F)(F)F | C14H12F6N2O2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 2-[[4-Cyano-3-(trifluoromethyl)phenyl](2,2,2-trifluoroethyl)amino]-N-(4-fluorophenyl)butanamide | C(#N)C1=C(C=C(C=C1)N(C(C(=O)NC1=CC=C(C=C1)F)CC)CC(F)(F)F)C(F)(F)F | C20H16F7N3O
